** sch_path: /home/designer/shared/ihp2603/openpdk-libraries/ihp-sg13g2/sg13g2_io/xschem/sg13g2_Clamp_P20N0D.sch
.subckt sg13g2_Clamp_P20N0D iovdd iovss pad[9] pad[8] pad[7] pad[6] pad[5] pad[4] pad[3] pad[2] pad[1] pad[0] sub
*.PININFO iovss:B iovdd:B pad[9:0]:B sub:B
R1 iovss sub ptap1 A=67.0344p P=394.32u
M1 pad[0] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M2 pad[1] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M3 pad[2] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M4 pad[3] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M5 pad[4] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M6 pad[5] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M7 pad[6] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M8 pad[7] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M9 pad[8] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
M10 pad[9] net1 iovdd iovdd sg13_hv_pmos w=26.64u l=0.6u ng=4 m=1
R2 iovdd net1 rppd w=0.5e-6 l=12.9e-6 m=1 b=0
.ends
